US07842701B2
N-(3-amino-4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl)-2-(4-methyl-1-piperazinyl)acetamide
A mixture of 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one (100 mg), chloroacetyl chloride (28.6 μl), triethylamine (71.7 μl ) and tetrahydrofuran (6 ml) was stirred at room temperature for 30 minutes, and 1-methylpiperazine (76.1 μl) was added thereto. The reaction mixture was stirred at room temperature for additional 30 minutes and with heating under reflux for 6 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous magnesium sulfate and then the solvent was distilled off under reduced pressure. Ethyl acetate was added to the residue. The precipitated solid was collected by filtration, and washed with ethyl acetate to obtain the target compound (64 mg).

reactant | 3,7-diamino-2-phenyl-2,5-dihydro-4H-pyrazolo[4,3-c]quinolin-4-one | 100 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)N)=O)C2=CC=CC=C2 | C16H13N5O
reactant | chloroacetyl chloride | 28.6 μl | ClCC(=O)Cl | C2H2Cl2O
reactant | triethylamine | 71.7 μl | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperazine | 76.1 μl | CN1CCNCC1 | C5H12N2
solvent | water | O | H2O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | N-(3-amino-4-oxo-2-phenyl-4,5-dihydro-2H-pyrazolo[4,3-c]quinolin-7-yl)-2-(4-methyl-1-piperazinyl)acetamide | 64 mg | NC=1N(N=C2C1C(NC=1C=C(C=CC21)NC(CN2CCN(CC2)C)=O)=O)C2=CC=CC=C2 | C23H25N7O2
